US05814631
Synthesis of 7-chloro-3-[4-(3-ethyloxycarbonylpropyloxy)benzenesulfonyl]-2,4(1H,3H)-quinazolinedione (Compound 142)
763 mg (2.44 mmol) of 4-(3-ethyloxycarbonylpropyloxy)benzenesulfonylisocyanate and 418 mg (2.44 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 306 mg of the above-identified compound (yield 27.0%). Properties: colorless crystal, Melting point: 167°-169° C., PMR (δppm, DMSO-d6):1.18 (3H,s), 1.98-2.03 (1H,m), 2.46 (2H,t), 4.04-4.14 (4H,m), 7.12 (1H,s), 7.16 (2H,d), 7.21 (1H,d), 7.85 (1H,d), 8.09 (2H,d), 11.58 (1H,s).

reactant | 4-(3-ethyloxycarbonylpropyloxy)benzenesulfonylisocyanate | 2.44 mmol, 763 mg | C(C)OC(=O)CCCOC1=CC=C(C=C1)S(=O)(=O)N=C=O | C13H15NO6S
reactant | 2-amino-4-chlorobenzoic acid | 2.44 mmol, 418 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-[4-(3-ethyloxycarbonylpropyloxy)benzenesulfonyl]-2,4(1H,3H)-quinazolinedione | 306 mg, yield 27.0% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC=C(C=C1)OCCCC(=O)OCC)=O | C20H19ClN2O7S
